US08202873B2
Couple 2,3-dichloropyrazine (0.302 g, 2.03 mmol) and 4-chlorophenylboronic acid (0.320 g, 2.05 mmol), using tetrakis(triphenylphosphine)palladium(0) (0.124 g, 0.107 mmol), and potassium fluoride (0.355 g, 6.11 mmol) in toluene (19 mL) and water (5 mL), at 100° C. for 17.5 hr. Cool the reaction, partition the layers and extract the aqueous layer with ethyl acetate. Wash the combined organic layers with saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 35:65 ethyl acetate:hexanes), to give 2-chloro-3-(4-chlorophenyl)-pyrazine (0.199 g, 44%).

reactant | 2,3-dichloropyrazine | 2.03 mmol, 0.302 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 4-chlorophenylboronic acid | 2.05 mmol, 0.320 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium fluoride | 6.11 mmol, 0.355 g | [F-].[K+]
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.107 mmol, 0.124 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-3-(4-chlorophenyl)-pyrazine | 0.199 g, 44% | ClC1=NC=CN=C1C1=CC=C(C=C1)Cl | C10H6Cl2N2
